US05554749
To a solution of 1-[3-[N-(2,3-dihydroxypropyl)-N-(carboxymethyl)amino]propyl]4,7-bis(carboxymethyl)-1,4,7-triazacyclononane (5.0 g, 0.010 mol) in 50 mL of deionized water is added gadolinium oxide (1.8 g, 0.005 mol). The slurry is heated at 80 C. under argon atmosphere for 15 hours. The resulting solution is cooled at 25 C., filtered and the filtrate is evaporated under reduced pressure to give 1-[3-[N-2,3-dihydroxypropyl)-N-(carboxymethyl)amino]propyl]-4,7-bis-(carboxymethyl)-1,4,7-triazacyclononane, gadolinium(III) complex.

reactant | 1-[3-[N-(2,3-dihydroxypropyl)-N-(carboxymethyl)amino]propyl]4,7-bis(carboxymethyl)-1,4,7-triazacyclononane | 0.010 mol, 5.0 g | OC(CN(CC(=O)O)CCCN1CCN(CCN(CC1)CC(=O)O)CC(=O)O)CO | C18H34N4O8
reactant | gadolinium oxide | 0.005 mol, 1.8 g | [O-2].[Gd+3].[O-2].[O-2].[Gd+3]
solvent | water | 50 mL | O | H2O
product | 4,7-bis-(carboxymethyl)-1,4,7-triazacyclononane | C(=O)(O)CN1CCNCCN(CC1)CC(=O)O | C10H19N3O4
